US08895313B2
4-(1,3-Benzothiazol-2-yl)-3-[2-(dimethylamino)ethoxy]aniline
Prepared as described in the Nitro Reduction section using 2-[2-(1,3-benzothiazol-2-yl)-5-nitrophenoxy]-N,N-dimethylethanamine (0.073 g, 0.21 mmol) and tin (II) dichloride dihydrate (0.38 g, 1.7 mmol) in EtOH (7 ml) to give the title compound (0.05 g, 75%) as a cream-coloured solid after work-up and flash chromatography (MeOH).

reactant | 2-[2-(1,3-benzothiazol-2-yl)-5-nitrophenoxy]-N,N-dimethylethanamine | 0.21 mmol, 0.073 g | S1C(=NC2=C1C=CC=C2)C2=C(OCCN(C)C)C=C(C=C2)[N+](=O)[O-] | C17H17N3O3S
reactant | tin (II) dichloride dihydrate | 1.7 mmol, 0.38 g | O.O.[Sn](Cl)Cl
reactant | MeOH | CO | CH4O
solvent | EtOH | 7 ml | CCO | C2H6O
product | 4-(1,3-Benzothiazol-2-yl)-3-[2-(dimethylamino)ethoxy]aniline | 0.05 g, 75% | S1C(=NC2=C1C=CC=C2)C2=C(C=C(N)C=C2)OCCN(C)C | C17H19N3OS
